US04173630
To a solution of 5.8 g of ethyl 1-[N2 -(3-butoxy-2,4-dimethoxyphenylsulfonyl)-L-arginyl]-4-methyl-2-piperidinecarboxylate acetate in 80 ml of ethanol and 40 ml of water was added 10 ml of 2N NaOH aqueous solution at room temperature and stirring was continued overnight at room temperature. At the end of this period, the reaction solvent was distilled off under reduced pressure at a temperature below 30° C. The residue was dissolved in a small amount of water and then neutralized with 2N NCl to precipitate a white gummy substance. The aqueous solution was separated by decantation and the white precipitate was dissolved in 200 ml of chloroform, washed with 30 ml of water and then dried over anhydrous sodium sulfate. Upon evaporation of solvent, there was obtained 4.0 g (79%) of 1-[N2 -(3-butoxy2,4-dimethoxyphenylsulfonyl)-L-arginyl]-4-methyl-2-piperidinecarboxylic acid in the form of an amorphous solid.

reactant | ethyl 1-[N2 -(3-butoxy-2,4-dimethoxyphenylsulfonyl)-L-arginyl]-4-methyl-2-piperidinecarboxylate acetate | 5.8 g | C(C)(=O)O.C(CCC)OC=1C(=C(C=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1C(CC(CC1)C)C(=O)OCC)OC
reactant | NaOH | 2N, 10 ml | [OH-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 1-[N2 -(3-butoxy2,4-dimethoxyphenylsulfonyl)-L-arginyl]-4-methyl-2-piperidinecarboxylic acid | 4.0 g, 79% | C(CCC)OC=1C(=C(C=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)N1C(CC(CC1)C)C(=O)O)OC | C25H41N5O8S
